US04882346
N,N'-dimethyl-N,N'-hexamethylenebis[acetamide]
To a 50% oil suspension of sodium hydride (3.36 grams, 70 mmol) in dry THF (60 mL) under nitrogen was added N-methylacetamide (5.0 grams, 69 mmol) in 10 mL THF, and the mixture was refluxed for five hours. Then, 6.0 grams (24 mmol) of 1,6-dibromohexane was added, and the resulting mixture was refluxed for an additional two hours. Two hundred milliliters of cold water was added, and the aqueous phase was extracted with 100 mL of chloroform three times. The organic layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated in vacuo to yield an oil. Kugelrohr distillation of this material gave 2.5 grams of a pure oil (53%), boiling point 138° C. (0.1 torr).

reactant | sodium hydride | 70 mmol, 3.36 grams | [H-].[Na+]
reactant | N-methylacetamide | 69 mmol, 5.0 grams | CNC(C)=O | C3H7NO
reactant | 1,6-dibromohexane | 24 mmol, 6.0 grams | BrCCCCCCBr | C6H12Br2
reactant | water | Two hundred milliliters | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N,N'-dimethyl-N,N'-hexamethylenebis[acetamide] | 2.5 grams, 53% | CN(C(C)=O)CCCCCCN(C(C)=O)C | C12H24N2O2
